US05124081
10.7 g (0.033 mole) of methyl 2-amino-3-hydoxyoctadecanoate prepared according to Example 1 are dissolved in 200 cm3 of dry benzene and then 3.28 g of triethylamine are added. 8.92 g (0.033 mole) of palmitoyl chloride dissolved in 60 cm3 of benzene are added dropwise to this solution between 20 and 35° C. After 3 hours' stirring, the triethylamine hydrochloride is removed by filtration at 40° C. The organic phase is washed twice with 100 cm3 of water. The benzene solution is dried over sodium sulphate and then part of the benzene is removed by evaporation. 16.3 g of methyl 2-hexadecanoylamino-3-hydroxyoctadecanoate are isolated by crystallization.

reactant | methyl 2-amino-3-hydoxyoctadecanoate | 0.033 mole, 10.7 g | NC(C(=O)OC)C(CCCCCCCCCCCCCCC)O | C19H39NO3
reactant | triethylamine | 3.28 g | C(C)N(CC)CC | C6H15N
reactant | palmitoyl chloride | 0.033 mole, 8.92 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | benzene | 200 cm3 | C1=CC=CC=C1 | C6H6
solvent | benzene | 60 cm3 | C1=CC=CC=C1 | C6H6
product | methyl 2-hexadecanoylamino-3-hydroxyoctadecanoate | 16.3 g | C(CCCCCCCCCCCCCCC)(=O)NC(C(=O)OC)C(CCCCCCCCCCCCCCC)O | C35H69NO4
